US08044231B2
An initial charge of 48 g of ethyl acetate was admixed at RT with a 10% solution of 32.4 g of sodium ethoxide in ethanol. The mixture was stirred at RT for 1 h and then admixed with 36 g of 1,1,2,2-tetrafluoroethyldimethylamine. Subsequently, the solution was stirred at 30° C. for 2 h, admixed with H2O and adjusted to pH 5. After extraction with ethyl acetate and subsequent distillation, 27 g (65%) of ethyl difluoroacetoacetate (boiling point 90-94° C./100 mbar) were obtained.

reactant | ethyl acetate | 48 g | C(C)(=O)OCC | C4H8O2
reactant | sodium ethoxide | 32.4 g | [O-]CC.[Na+]
reactant | 1,1,2,2-tetrafluoroethyldimethylamine | 36 g | FC(C(F)F)(F)N(C)C | C4H7F4N
reactant | H2O | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | ethyl difluoroacetoacetate | 27 g, 65% | FC(C(CC(=O)OCC)=O)F | C6H8F2O3
